US07795283B2
ix) Methyl ({6-[trans-4-(2-methoxy-2-oxoethyl)cyclohexyl]pyridin-3-yl}amino)(oxo)acetate
To an ice water cooled solution of methyl [trans-4-(5-aminopyridin-2-yl)cyclohexyl]acetate hydrochloride, prepared as above, (831 mg, 2.59 mmol) in DCM (50 mL) was added triethylamine (1.3 mL, 9.31 mmol) followed by methyl chlorooxoacetate (0.31 mL, 3.36 mmol) and the reaction mixture was allowed to stir at O—C for 2 hrs. The reaction mixture was diluted with DCM (100 mL) and washed with water (80 mL) then brine (80 mL) and the aqueous layer was re extracted with DCM (50 mL). The organic washings were combined, dried and concentrated to give the title compound, 865 mg (2.59 mmol, 100%) which was taken through to the next stage; 1H NMR (CDCl3) δ 1.13-1.27 (m, 1H), 1.57-1.64 (m, 3H), 1.84-2.00 (m, 5H), 2.26 (d, 2H), 2.62-2.70 (m, 1H), 3.68 (s, 3H), 3.98 (s, 3H), 7.18 (d, 1H), 8.13 (d, 1H), 8.60 (s, 1H), 8.82 (brs, 1H); MS m/e MH+ 335.

reactant | methyl [trans-4-(5-aminopyridin-2-yl)cyclohexyl]acetate hydrochloride | Cl.NC=1C=CC(=NC1)[C@@H]1CC[C@H](CC1)CC(=O)OC
reactant | triethylamine | 9.31 mmol, 1.3 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chlorooxoacetate | 3.36 mmol, 0.31 mL | ClC(C(=O)OC)=O | C3H3ClO3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | Methyl ({6-[trans-4-(2-methoxy-2-oxoethyl)cyclohexyl]pyridin-3-yl}amino)(oxo)acetate | COC(C[C@@H]1CC[C@H](CC1)C1=CC=C(C=N1)NC(C(=O)OC)=O)=O | C17H22N2O5
